US07371777B2
Ethyl 2-hydroxy-2-(4-methoxybenzyl)-3-(methoxymethoxy)-propanoate
A solution of 1.06 g of ethyl 2,3-dihydroxy-2-(4-methoxybenzyl)propanoate in 20 ml of dimethoxymethanol was cooled to 0° C. under an atmosphere of nitrogen gas. 0.94 g of 2,6-lutidine and 1.59 ml of 1,1,1-trimethylsilyl tri-fluoromethanesulfonate were sequentially added, and the mixture was stirred for 1 hour. 100 ml of ethyl acetate and 50 ml of water were added, and the organic layer was washed with 50 ml of brine, dried over magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography, to give 1.00 g of the title compound as a colorless oil.

reactant | ethyl 2,3-dihydroxy-2-(4-methoxybenzyl)propanoate | 1.06 g | OC(C(=O)OCC)(CO)CC1=CC=C(C=C1)OC | C13H18O5
reactant | 2,6-lutidine | 0.94 g | N1=C(C=CC=C1C)C | C7H9N
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 50 ml | O | H2O
solvent | dimethoxymethanol | 20 ml | COC(O)OC | C3H8O3
product | Ethyl 2-hydroxy-2-(4-methoxybenzyl)-3-(methoxymethoxy)-propanoate | 1.00 g | OC(C(=O)OCC)(COCOC)CC1=CC=C(C=C1)OC | C15H22O6
